US04578402
Part C: Preparation of 1-[2,5-dichloro-4-(alpha-cyano-4-fluorobenzyl)phenyl]-3-(2,6-difluorobenzoyl)urea
Into a 100 milliliter round bottom flask equipped with a thermometer, magnetic stirrer and condenser was added 30 milliliters of toluene, 1.2 grams (0.004 moles) of 2,5-dichloro-4-(alpha-cyano-4-fluorobenzyl)aniline prepared in Part B and 1.0 grams (0.005 moles) of 2,6-difluorobenzoyl isocyanate under a nitrogen atmosphere at ambient temperature. The reaction mixture was then heated in an oil bath for a period of 2 hours. After cooling to ambient temperature, the reaction mixture was filtered and dried overnight in a vacuum oven at 50° C. This afforded 1.3 grams of a white solid having a melting point of 216° C.-218° C. Elemental analysis of the white solid indicated the following:

reactant | 2,5-dichloro-4-(alpha-cyano-4-fluorobenzyl)aniline | 0.004 moles, 1.2 grams | ClC1=C(N)C=C(C(=C1)C(C1=CC=C(C=C1)F)C#N)Cl | C14H9Cl2FN2
reactant | 2,6-difluorobenzoyl isocyanate | 0.005 moles, 1.0 grams | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | 30 milliliters | C1(=CC=CC=C1)C | C7H8
product | 1-[2,5-dichloro-4-(alpha-cyano-4-fluorobenzyl)phenyl]-3-(2,6-difluorobenzoyl)urea | ClC1=C(C=C(C(=C1)C(C1=CC=C(C=C1)F)C#N)Cl)NC(=O)NC(C1=C(C=CC=C1F)F)=O | C22H12Cl2F3N3O2
